US08431568B2
To a solution of 10-cyclohexyl-1-methyl-4H-indolo[1,2-d][1,2,4]triazolo[4,3-a][1,4]benzodiazepine-7-carboxylic acid (54 mg, 0.13 mmol) and N,N-dimethylsulfamide (81 mg, 0.65 mmol) in DMA (2 mL), was added DMAP (80 mg, 0.65 mmol), and EDCI-HCl (100 mg, 0.52 mmol). The reaction mixture was stirred at 60° C. for 2 h, cooled to rt, diluted with DMSO and MeOH and purified by prep HPLC (MeOH/H2O with 10 mM TFA buffer) to yield 10-cyclohexyl-N-((dimethylamino)sulfonyl)-1-methyl-4H-indolo[1,2-d][1,2,4]triazolo[4,3-a][1,4]benzodiazepine-7-carboxamide (29 mg, 0.056 mmol, 43%) as a bright yellow solid. 1H NMR (500 MHz, CD3OD) δ 1.22-1.34 (m, 1H), 1.41-1.62 (m, 3H), 1.77-1.85 (m, 2H), 1.95-2.18 (m, 4H), 2.71 (s, 3H), 2.90-3.00 (m, 1H), 3.05 (s, 6H), 5.09 (d, J=15.9 Hz, 1H), 6.03 (d, =15.9 Hz, 1H), 7.67 (dd, J=8.2, 1.5 Hz, 1H), 7.79-7.87 (m, 4H), 8.00 (d, J=8.6 Hz, 1H), 8.33 (s, 1H). LCMS: m/e 519 (M+H)+, ret time 1.96 min.

reactant | 10-cyclohexyl-1-methyl-4H-indolo[1,2-d][1,2,4]triazolo[4,3-a][1,4]benzodiazepine-7-carboxylic acid | 0.13 mmol, 54 mg | C1(CCCCC1)C1=C2C=C3N(C=C4N(C5=C3C=C(C=C5)C(=O)O)C=NN4C)C2=CC=C1 | C25H24N4O2
reactant | N,N-dimethylsulfamide | 0.65 mmol, 81 mg | CN(S(=O)(=O)N)C | C2H8N2O2S
reactant | EDCI HCl | 0.52 mmol, 100 mg | CCN=C=NCCCN(C)C.Cl
solvent | DMA | 2 mL | CC(=O)N(C)C | C4H9NO
catalyst | DMAP | 0.65 mmol, 80 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMSO | CS(=O)C | C2H6OS
solvent | MeOH | CO | CH4O
product | 10-cyclohexyl-N-((dimethylamino)sulfonyl)-1-methyl-4H-indolo[1,2-d][1,2,4]triazolo[4,3-a][1,4]benzodiazepine-7-carboxamide | 0.056 mmol, 29 mg, 43% | C1(CCCCC1)C1=C2C=C3N(C=C4N(C5=C3C=C(C=C5)C(=O)NS(=O)(=O)N(C)C)C=NN4C)C2=CC=C1 | C27H30N6O3S
